US08623889B2
Step 6: 7-bromo-3-(2-chloro-5-fluorophenyl)-1,6-naphthyridine
To a slurry of potassium tert-butoxide (94 mg, 0.8 mmol) in 1,4-dioxane (1 mL) cooled at 0° C. was added 2-(2-chloro-5-fluorophenyl)acetaldehyde (98 mg, 0.4 mmol) as a solution in 1,4-dioxane (0.6 mL). The reaction mixture was stirred for 10 minutes at this temperature, and then tert-butyl 2-bromo-5-formylpyridin-4-ylcarbamate (60 mg, 0.2 mmol) was added as a solution in dioxane (0.6 mL). The reaction mixture was allowed to warm to room temperature, and after 30 minutes a 5.0M solution of hydrogen chloride in water (0.5 mL) was added and the mixture was heated at 100° C. for 1 hour. The cooled reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 4 g, ISCO, 0-50% ethyl acetate in heptane) to afford the title compound as an off-white solid (20 mg, 30%), which was used in the next step without further purification.

reactant | potassium tert-butoxide | 0.8 mmol, 94 mg | CC(C)([O-])C.[K+]
reactant | 2-(2-chloro-5-fluorophenyl)acetaldehyde | 0.4 mmol, 98 mg | ClC1=C(C=C(C=C1)F)CC=O | C8H6ClFO
reactant | tert-butyl 2-bromo-5-formylpyridin-4-ylcarbamate | 0.2 mmol, 60 mg | BrC1=NC=C(C(=C1)NC(OC(C)(C)C)=O)C=O | C11H13BrN2O3
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 7-bromo-3-(2-chloro-5-fluorophenyl)-1,6-naphthyridine | 20 mg, 30% | BrC1=NC=C2C=C(C=NC2=C1)C1=C(C=CC(=C1)F)Cl | C14H7BrClFN2
